US04399078
To a room temperature solution of 0.24 moles DMR in 55 ml hexane is added dropwise over a 45 minute period a solution of 0.2 mole of the complex solution of Example 1. After stirring 18 hours, the resulting yellow to orange colored mixture of DMPL is slowly drained into a slurry of 80 ml hexane, 70 ml toluene, and approximately 600 g dry ice (large excess of CO2). The carbonylation is continued at approximately -50° C. or 12 hours, then gradually allowed to warm to room temperature. The tan colored mixture of lithium 2,6-dimethoxybenzoate is slowly quenched by pouring into 400 ml of tap water. The resulting mixture is stirred with a magnetic stirrer for 30 minutes. The pale yellow aqueous layer is separated and decolorized with 1 g activated charcoal. The nearly colorless solution is acidified (Ph~1) with 6 N HCl to cause precipitation of DMBA. The crystalline product is filtered and dried. Then the melting point is determined followed by calculation of percent yield based on moles of the complex of Example 1 used. Analysis of the yield of 2,6-dimethoxyphenyllithium resulting from the metalation step is determined by proton NMR. Using this method, a sample of the mixture resulting from the reaction of complex metalating agent and 1,3-dimethoxybenzene is quenched with deuterium oxide. The proton NMR spectrum reveals greater than 95%±5% deuterium incorporation.

reactant | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
reactant | dry ice | approximately 600 g | C(=O)=O | CO2
reactant | lithium 2,6-dimethoxybenzoate | COC1=C(C(=O)[O-])C(=CC=C1)OC.[Li+]
reactant | 2,6-dimethoxyphenyllithium | COC1=C(C(=CC=C1)OC)[Li]
solvent | hexane | 55 ml | CCCCCC | C6H14
solvent | hexane | 80 ml | CCCCCC | C6H14
product | 1,3-dimethoxybenzene | COC1=CC(=CC=C1)OC | C8H10O2
